US07622589B2
51A) 6-tert-Butyl-2-chloro-3-vinylpyridine
To a diethyl ether (17 ml) solution of 6-tert-butyl-2-chloronicotinonitrile (Tetrahedron 1965, 21, 2453-2467, 1.0 g, 5.4 mmol) was added 0.94 M diisobutylaluminum hydride in toluene solution (8.6 ml, 8.0 mmol) at −78° C. and the reaction was allowed to warm to room temperature over 2 hours with stirring. Then the reaction was quenched with 10% potassium sodium tartrate tetrahydrate aqueous solution and the whole was extracted with EtOAc, and washed with 2M sodium hydroxide aqueous solution and brine. The organic layer was evaporated and purified by silica gel column chromatography, eluting with hexane/EtOAc (5:1), to give 6-tert-butyl-2-chloronicotinaldehyde (1.0 g, 95%). To a THF (24 ml) suspension of methyltriphenylphosphonium bromide (5.3 g, 14.8 mmol) was added 1.60 M n-butyllithium (9.3 ml, 14.8 mmol) in hexane solution at 0° C. and the reaction was stirred for 30 minutes. Then to this mixture was added a THF (5 ml) solution of the 6-tert-butyl-2-chloronicotinaldehyde (1.0 g, 5.2 mmol) at 0° C., and the reaction was stirred for 2 hours at room temperature. The reaction was quenched with saturated ammonium chloride aqueous solution, and the whole was extracted with EtOAc, and dried over magnesium sulfate. The organic layer was evaporated and purified by silica gel column chromatography, eluting with hexane/EtOAc (10:1), to give the title compound (735 mg, 71%).

reactant | THF | 24 ml | C1CCOC1 | C4H8O
reactant | n-butyllithium | 14.8 mmol, 1.60 M, 9.3 ml | C(CCC)[Li]
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | 6-tert-butyl-2-chloronicotinaldehyde | 5.2 mmol, 1.0 g | C(C)(C)(C)C1=NC(=C(C=O)C=C1)Cl | C10H12ClNO
catalyst | methyltriphenylphosphonium bromide | 14.8 mmol, 5.3 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | hexane | CCCCCC | C6H14
product | 6-tert-Butyl-2-chloro-3-vinylpyridine | 735 mg, 71% | C(C)(C)(C)C1=CC=C(C(=N1)Cl)C=C | C11H14ClN
